US06897231B2
SYNTHESIS OF 5-[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-3-(4-PYRIDYL)-4H-1,2,4-TRIAZOLE
The procedure described in example 119 using ethoxy[3-(4-fluorophenyl)(1H-indazole-5-yl)]methanimine hydrochloride (200 mg, 0.62 mmol), triethylainine (0.25 mL, 1.86 mmol) and isonicotinic acid hydrazide (171.42 mg, 1.25 mmol) was followed to yield the title compound (34 mg, 15% yield). 1H NMR (DMSO-d6) δ 13.6 (s, 1H), 8.78-8.82 (m, 3H), 8.05-8.25 (m, SH), 7.8 (d, 1H), 7.45 (t, 2H), ES-MS (m/z) 357 [M+1]−.

reactant | ethoxy[3-(4-fluorophenyl)(1H-indazole-5-yl)]methanimine hydrochloride | 0.62 mmol, 200 mg | Cl.C(C)OC(=N)C=1C=C2C(=NNC2=CC1)C1=CC=C(C=C1)F
reactant | isonicotinic acid hydrazide | 1.25 mmol, 171.42 mg | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
product | 5-[3-(4-FLUOROPHENYL)(1H-INDAZOL-5-YL)]-3-(4-PYRIDYL)-4H-1,2,4-TRIAZOLE | 34 mg, 15% yield | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C=1NC(=NN1)C1=CC=NC=C1 | C20H13FN6
